US07115645B2
N-Methoxy-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid amide
100 mg of 6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid was dissolved in 2 ml of tetrahydrofuran, mixed with 39 mg of carbonyldiimidazole, stirred for 30 minutes at 20° C. and then refluxed for 30 minutes. At 20° C., 21 mg of O-methylhydroxyaminohydrochloride was then added, and it was allowed to stir for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with 2N aqueous hydrochloric acid and saturated potassium bicarbonate solution. After drying on sodium sulfate, it was concentrated by evaporation in a vacuum, and the residue was chromatographed on silica gel.

reactant | 6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid | 100 mg | C1(=CC=CC=C1)N1C(=NC2=C1C=C(C=C2)OCCCCCC(=O)O)C2=CC=CC=C2 | C25H24N2O3
reactant | carbonyldiimidazole | 39 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methoxy-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid amide | CONC(CCCCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C26H27N3O3
